US05958918
B. 7-Methoxynaphthalene-2-sulfonyl chloride
A mixture of 7-methoxynaphthalene-2-sulfonic acid, sodium salt (8.12 g, 31.1 mmol) in 80 mL of thionyl chloride is heated at 80° C. for 3 hours. A few drops of DMF is added with vigorous bubbling resulting and the mixture is heated for an additional 1.5 hours. The mixture is allowed to cool to room temperature and concentrated in vacuo. The residue is diluted in EtOAc and washed successively with water (2×), 1 N HCl solution and saturated NaCl. The organic layer is dried over anhydrous MgSO4, filtered and concentrated. The crude product is purified by column chromatography eluting with 20% EtOAc/hexanes to afford the title compound (5.2 g, 20.2 mmol) as a white solid.

reactant | 7-methoxynaphthalene-2-sulfonic acid | COC1=CC=C2C=CC(=CC2=C1)S(=O)(=O)O | C11H10O4S
reactant | sodium | 31.1 mmol, 8.12 g | [Na] | Na
reactant | thionyl chloride | 80 mL | S(=O)(Cl)Cl | Cl2OS
catalyst | DMF | A few drops | CN(C)C=O | C3H7NO
product | 7-Methoxynaphthalene-2-sulfonyl chloride | 20.2 mmol, 5.2 g | COC1=CC=C2C=CC(=CC2=C1)S(=O)(=O)Cl | C11H9ClO3S
